US04851519
A slurry of 0.4 g of triphenylacetic acid in 10 ml of benzene was stirred at 25° C. and treated with 0.2 g of oxalyl chloride and 1 drop of dimethylformamide. Effervesence occurred over a period of about 30 minutes, after which time a solution was obtained. This solution was left to stand at room temperature for 1.5 hours and was then evaporated to give triphenylacetyl chloride in the form of an oil. The acid chloride was cooled to about -10° C. by means of an ice/salt bath and 10 ml of dry pyridine and 0.36 g of 5'-amino-2',5'-dideoxy-5-ethyluridine were added. The mixture was shaken for about 15 minutes, whereby the acid chloride dissolved and the temperature rose to 0° C. The solution was then stirred at 0° C. for 4 hours and then evaporated. The residue was re-evaporated three times with toluene, there being obtained a gum which was triturated with 20 ml of water to give 0.66 g of a solid of melting point 110°-140° C. Recrystallization from 12 ml of ethanol removed residual triphenylacetic acid and the residue was chromatographed on a column of silica gel using methylene chloride/methanol (9:1) for the elution. Recrystallization from a mixture of 5 ml of toluene, 10 ml of cyclohexane and 0.1 ml of ethyl acetate gave 0.25 g of 2',5'-dideoxy-5-ethyl-5'-(triphenylacetamido)uridine of melting point about 110°-120° C. (decomposition).

reactant | triphenylacetic acid | 0.4 g | C1(=CC=CC=C1)C(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16O2
reactant | oxalyl chloride | 0.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | triphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H15ClO
